US06326500B1
A mixture of N-[2-(4-chlorophenoxy)-1,1dimethylethyl]acrylamide (4.5 g), imidazole (1.24 g), benzyltrimethylanmonium hydroxide (0.62 ml of a 40% solution in methanol, Triton®B) and 1,4-dioxane (40 ml) was heated at 95° C. for 7 hours. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane. This solution was extracted with SM hydrochloric acid. The combined acid extracts were basified with 10M sodium hydroxide solution and extracted with dichloromethane to give N-[2-(4-chlorophenoxy)-1,1-dimethylethyl]-3-(imidazol-1-yl)propionamide.

reactant | N-[2-(4-chlorophenoxy)-1,1dimethylethyl]acrylamide | 4.5 g | ClC1=CC=C(OCC(C)(C)NC(C=C)=O)C=C1 | C13H16ClNO2
reactant | imidazole | 1.24 g | N1C=NC=C1 | C3H4N2
reactant | hydroxide | [OH-]
reactant | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | N-[2-(4-chlorophenoxy)-1,1-dimethylethyl]-3-(imidazol-1-yl)propionamide | ClC1=CC=C(OCC(C)(C)NC(CCN2C=NC=C2)=O)C=C1 | C16H20ClN3O2
